US05068449
Into a 200 cc glass reactor equipped with a reflux condensor, 50 g of 2-chloro-4,5-difluorobenzoylchloride, 13.7 g of spray dried potassium fluoride and 100 g of sulforane were charged and reacted at 135° C. for 4 hours under stirring. After cooling, the inorganic salts were filtered off, and the residue was subjected to distillation under reduced pressure to obtain 42 g of 2-chloro-4,5-difluorobenzoyl fluoride. The physical properties of the obtained 2-choloro-4,5-difluorobenzoyl fluoride were as follows.

reactant | 2-chloro-4,5-difluorobenzoylchloride | 50 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2Cl2F2O
reactant | potassium fluoride | [F-].[K+]
product | 2-chloro-4,5-difluorobenzoyl fluoride | 42 g | ClC1=C(C(=O)F)C=C(C(=C1)F)F | C7H2ClF3O
